US04849424
In anhydrous tetrahydrofuran, 159 mg of 4-chloro-2-methoxy-6-methylpyrimidine was substituted with 69 mg of 1,2,4-triazole. The reaction mixture was treated according to the procedure of Example 5 to yield 43 mg of 2-methoxy-6-methyl-4-(1,2,4-triazol-1-yl)pyrimidine, recrystallized from n-hexane, having a melting point of 98°-98.5° C.

reactant | 4-chloro-2-methoxy-6-methylpyrimidine | 159 mg | ClC1=NC(=NC(=C1)C)OC | C6H7ClN2O
reactant | 1,2,4-triazole | 69 mg | N1N=CN=C1 | C2H3N3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methoxy-6-methyl-4-(1,2,4-triazol-1-yl)pyrimidine | 43 mg | COC1=NC(=CC(=N1)N1N=CN=C1)C | C8H9N5O
